US05702887
treating 12-chloro-2-methoxy-benz[b]acridine with potassium cyanide and copper (I) cyanide to produce 12-cyano-2-methoxy-benz[b]acridine;

reactant | 12-chloro-2-methoxy-benz[b]acridine | ClC=1C=2C=C(C=CC2N=C2C=C3C(=CC12)C=CC=C3)OC | C18H12ClNO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | copper (I) cyanide | [Cu]C#N
product | 12-cyano-2-methoxy-benz[b]acridine | C(#N)C=1C=2C=C(C=CC2N=C2C=C3C(=CC12)C=CC=C3)OC | C19H12N2O
